US07144876B2
5-(3-Chlorothiophen-2-yl)-3-(4-chloro-3-cyano-phenyl)-[1,2,4]-oxadiazole
A solution of sodium nitrite (76.8 mg, 1.11 mmol) and water (650 μL) was added dropwise to a stirred suspension of 3-(3-amino-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]-oxadiazole (335 mg, 1.07 mmol) in sulfuric acid (3.0 mL), water (8 mL) and some crushed ice in an ice bath. The solution was stirred for 1.25 h and then was poured into a solution of cuprous cyanide (152 mg, 1.70 mmol), potassium cyanide (231 mg, 3.55 mmol) and water (8 mL) in an ice bath. The solution was stirred for 10 min, then ethyl acetate (50 mL) was added, followed by sodium carbonate to bring the solution to pH 7, and the solution was equilibrated to room temperature. The ethyl acetate layer was concentrated by rotary evaporation and the product was purified by column chromatography to yield 75.7 mg (22%) of the title compound as a light yellow solid. 1H NMR (CDCl3): 8.49 (d, J=2.20 Hz, 1H), 8.33 (dd, J1=8.52 Hz, J2=2.20 Hz, 1H), 7.67 (m, 2H), 7.16 (d, J=5.50 Hz, 1H).

reactant | sodium nitrite | 1.11 mmol, 76.8 mg | N(=O)[O-].[Na+]
reactant | 3-(3-amino-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]-oxadiazole | 1.07 mmol, 335 mg | NC=1C=C(C=CC1Cl)C1=NOC(=N1)C=1SC=CC1Cl | C12H7Cl2N3OS
reactant | potassium cyanide | 3.55 mmol, 231 mg | [C-]#N.[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 3.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 8 mL | O | H2O
solvent | water | 8 mL | O | H2O
solvent | water | 650 μL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-Chlorothiophen-2-yl)-3-(4-chloro-3-cyano-phenyl)-[1,2,4]-oxadiazole | 75.7 mg, 22% | ClC1=C(SC=C1)C1=NC(=NO1)C1=CC(=C(C=C1)Cl)C#N | C13H5Cl2N3OS
